US09212147B2
Under a nitrogen atmosphere, 10% palladium-barium sulfate (120 mg) was suspended in ethanol (10 ml), and 3,4-bis(benzyloxy)-6-[(2-naphthyloxy)methyl]pyridazine (120 mg) was added. Under a hydrogen atmosphere, the mixture was stirred at room temperature for 5 hr. The catalyst was filtered off through celite, and the filtrate was concentrated under reduced pressure. The residue was washed with diethyl ether, and the resulting solid was collected by filtration and dried under reduced pressure to give 3-hydroxy-6-[(2-naphthyloxy)methyl]pyridazin-4(1H)-one (30 mg).

reactant | 3,4-bis(benzyloxy)-6-[(2-naphthyloxy)methyl]pyridazine | 120 mg | C(C1=CC=CC=C1)OC=1N=NC(=CC1OCC1=CC=CC=C1)COC1=CC2=CC=CC=C2C=C1 | C29H24N2O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-barium sulfate | 120 mg | S(=O)(=O)([O-])[O-].[Ba+2].[Pd+2].S(=O)(=O)([O-])[O-]
product | 3-hydroxy-6-[(2-naphthyloxy)methyl]pyridazin-4(1H)-one | 30 mg | OC1=NNC(=CC1=O)COC1=CC2=CC=CC=C2C=C1 | C15H12N2O3
